US04814485
In 10 ml of pure trifluoroacetic acid was dissolved at 0° C. 1 g (0.0032 mol) of methyl (3S,4S)-3-hydroxy-4-(N-BOC-amino)-4-phenylbutanoate partially in racemic form. After 15 min. at 0° C., the acid was rapidly evaporated off under reduced pressure wlthout heatlng. Then the vapor had disappeared, the salt so obtained was suspended in methylene chloride at 0° C. and therewere successively added 1.06 g (0.0032 mol) of BOC-Nle-ObSU, 0.620 g (0.004 mol) of HOBt and then a sufficient amount of NEM to bring the pH of the solution to 6-7. The reaction medium was heated to room-temperature in 2 h, while controling the pH, and then stirred for 12 to 15 h. The solvent was evaporated off at room-temperature using a Buchi evaporator and the peptide was extracted by means of ethyl acetate. The organic phase was then washed with 4 fractions of a dilute aqueous solution of sodium carbonate, 2 fractions of water, 4 fractions of a dilute aqueous solution of potassium hydrogenosulphate then with 2 fractions of water and only one fraction of an aqueous solution of sodium chloride. The medium was dried on magnesium sulphate and purified by chromatography on silicagel while eluting with a 1/1 mixture of methylene chloride/ethyl acetate. After triturating in an ethyl ether/hexane mixture, 0.629 g of methyl 4-(N-BOC-norleucylamino)-3-hydroxy-4-phenylbutanoate was obtained.

reactant | methyl (3S,4S)-3-hydroxy-4-(N-BOC-amino)-4-phenylbutanoate | 0.0032 mol, 1 g | O[C@@H](CC(=O)OC)[C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C | C16H23NO5
reactant | HOBt | 0.004 mol, 0.620 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 4-(N-BOC-norleucylamino)-3-hydroxy-4-phenylbutanoate | 0.629 g | C(=O)(OC(C)(C)C)N[C@@H](CCCC)C(=O)NC(C(CC(=O)OC)O)C1=CC=CC=C1 | C22H34N2O6
